2128-01-29 08:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo male with Hep C and EtOH cirrhosis admitted w/ decompensated
   liver disease, ARF and acute blood loss anemia.
   24 Hour Events:
   Trauma line placed [** **], which was sutured in the pm per [**Doctor First Name **]. EGD [**Doctor First Name **]
   with nonbleeding GEJ ulcer. Transfused a total of 4u PRBCs since
   admission, w/ Hct 28 --> 23 --> 25 but remained hemodyn stable.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-28**] 08:31 AM
   Vancomycin - [**2128-1-28**] 09:31 AM
   Metronidazole - [**2128-1-28**] 04:19 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2128-1-28**] 01:03 PM
   Midazolam (Versed) - [**2128-1-28**] 01:04 PM
   Pantoprazole (Protonix) - [**2128-1-28**] 08:00 PM
   Other medications:
   Rifaximin, lactulose, CTX, Protonix, Sucralfate, Flagyl, Vanco renal
   dosing
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-29**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 88 (73 - 94) bpm
   BP: 102/41(57) {74/31(45) - 121/66(73)} mmHg
   RR: 21 (14 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  7,771 mL
                                                                  1,345 mL
   PO:
           TF:
   IVF:
                                                                  6,211 mL
                                                                    585 mL
   Blood products:
                                                                  1,470 mL
                                                                    700 mL
   Total out:
                                                                  3,535 mL
                                                                    673 mL
   Urine:
                                                                  1,035 mL
                                                                    173 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  4,236 mL
                                                                    672 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: dried blood in op
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: B bases)
   Abdominal: Soft, No(t) Non-tender, Obese, mild ttp diffusely, no
   rebound or guarding
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name place and time, Movement: Not assessed,
   Tone: Not assessed, dysarthric
   Labs / Radiology
   9.2 g/dL
   147 K/uL
   91 mg/dL
   6.0 mg/dL
   29 mEq/L
   3.2 mEq/L
   81 mg/dL
   91 mEq/L
   134 mEq/L
   25.5 %
   15.4 K/uL
        [image002.jpg]
                             [**2128-1-28**]  10:09 AM
                             [**2128-1-28**]  03:47 PM
                             [**2128-1-28**]  06:47 PM
                             [**2128-1-29**]  01:30 AM
                             [**2128-1-29**]  05:58 AM
   WBC
   12.3
   12.1
   14.2
   15.4
   Hct
   28.1
   23.3
   23.1
   25.5
   Plt
   [**Telephone/Fax (3) 13616**]47
   Cr
   7.0
   5.7
   6.0
   Glucose
   127
   106
   91
   Other labs: PT / PTT / INR:18.9/44.6/1.7, ALT / AST:165/294, Alk Phos /
   T Bili:102/25.5, Albumin:2.6 g/dL, LDH:179 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.4 mg/dL, PO4:7.9 mg/dL
   Imaging: [**1-29**] CXR- slightly worsened R basilar infil vs atelectasis
   since admission
   Microbiology: [**1-28**] Urine- neg
   [**1-28**] Blood- pending
   Assessment and Plan
   51 yo male with Hep C and EtOH cirrhosis admitted with-
   1. Acute blood loss anemia- due to GI bleed most likely. Thought to be
   ostomy-site related though GEJ ulcer also seen. Also d/t IJ line site
   bleeding in the setting of coagulopathy. Resuscitation complicated by
   numerous RBC Ab making matching more difficult. Hemodyn stable.
   -Serial hct
s, [**Hospital1 7**] PPI, reverse anticoagulation while pt bleeding with
   ffp, vitamin K. Surgery and GI following
   -No [**Doctor First Name 213**] wanted as per disc w/ pt and brother [**Name (NI) **]
   2. Cirrhosis- EtOH and HCV related. Poss acute alc hep on top of
   underlying liver disease. Decompensation also prob related to GIB as
   above
   -cont lactulose and rifaximin; encephalopathy clearing
   -supp mgmt, trend LFTs
   3. ARF- pre-renal/ATN vs hepatorenal. Pt is making reasonable urine
   output and probably has a contraction alkalosis. No acute indications
   for HD.
   -re-check
lytes after resuscitation, dose meds for CrCl<10. Renal team
   following
   -bolus IVF for UOP; even to slightly positive fluid balance for now
   4. Hyponatremia- most likely [**1-6**] volume contraction and chronic liver
   dz
   5. Hypokalemia: unclear cause; may have  artificially low levels due to
   alkalosis causing translocation- will re-check after further fluid
   resusctiation
   6. Leukocytosis: unclear source, inflammation nonspecifically vs pulm
   source or GI source
   -cont vanco + CTX + Flagyl
   -recheck vanco level in the AM
   ICU Care
   Nutrition:
   Comments: npo for now- start enteral nutrition in next 24-48h
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Trauma line - [**2128-1-28**] 09:55 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Critical Care Attending
   I saw and examined the pt independently, and was present with the ICU
   team for the key portions of services provided. I agree with Dr.
   [**Last Name (STitle) 13625**]
s note, including assessment and plan. I would add-
   51 yo male with EtOH and Hep C cirrhosis, transferred from floor with
   GI bleed/acute blood  loss anemia, AMS, ARF. More alert today and
   attempts to communicate, though speech somewhat slurred.  Hct still
   somewhat low after 4 units blood; however, no longer noticing active
   bleeding from colostomy/trauma line. Hyponatremia and alkalosis
   improving with resuscitation and pt appears more alert. Remains in
   renal failure with borderline urine output. Major problems:
   1.       Acute blood loss anemia: still need to trend hct
s given
   inappropriately low increase with last transfusion, but rate of visible
   bleeding seems to be slowing and pt
s hemodynamics have been within n
   limits. Correct coagulopathy as needed for active bleeding, on PPI
   2.       Cirrhosis- on lactulose/rifaximini
   3.       ARF- renal function minimally changed with fluid
   resuscitation, borderline urine output but this may be partly [**1-6**]
   volume as he is putting out a lot of stool from lactulose. Will match
   I/O or run slightly positive today
   4.       AMS- multifactorial [**1-6**] hep.encephalopathy, renal failure,
   GIB, ?sepsis. Slowly improving
   5.       Leukocytosis: on empiric Vanc/CTX/flagyl, scale back in next
   1-2 days
   Pt is critically ill. Total time spent : 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2128-1-29**] 02:43 PM ------

2128-01-30 10:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo male with Hep C and EtOH cirrhosis admitted with decompensated
   liver disease and acute blood loss anemia.
   24 Hour Events:
   per discussion w/ pts brother, open to hospice if not improving
   clinically. Also averse to starting HD if needed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-28**] 08:31 AM
   Vancomycin - [**2128-1-28**] 09:31 AM
   Ceftriaxone - [**2128-1-30**] 07:30 AM
   Metronidazole - [**2128-1-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2128-1-30**] 07:30 AM
   Other medications:
   rifaximin, lactulose, sucralfate, Flagyl, Ca acetate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-30**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 85 (83 - 90) bpm
   BP: 111/45(60) {98/37(53) - 127/100(104)} mmHg
   RR: 23 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,770 mL
                                                                    644 mL
   PO:
             TF:
   IVF:
                                                                  1,740 mL
                                                                    494 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,551 mL
                                                                  1,655 mL
   Urine:
                                                                  1,051 mL
                                                                    455 mL
   NG:
   Stool:
   1,200 mL
   Drains:
   Balance:
                                                                    219 mL
                                                                 -1,011 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: mild diffusely, , Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Jaundice, lower abd stge ii breakdown
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, mild asterixis
   Labs / Radiology
   9.4 g/dL
   144 K/uL
   80 mg/dL
   5.4 mg/dL
   29 mEq/L
   2.8 mEq/L
   83 mg/dL
   97 mEq/L
   140 mEq/L
   26.4 %
   12.6 K/uL
        [image002.jpg]
                             [**2128-1-28**]  10:09 AM
                             [**2128-1-28**]  03:47 PM
                             [**2128-1-28**]  06:47 PM
                             [**2128-1-29**]  01:30 AM
                             [**2128-1-29**]  05:58 AM
                             [**2128-1-29**]  12:51 PM
                             [**2128-1-29**]  07:45 PM
                             [**2128-1-30**]  03:39 AM
   WBC
   12.3
   12.1
   14.2
   15.4
   12.6
   Hct
   28.1
   23.3
   23.1
   25.5
   25.5
   25.9
   26.4
   Plt
   [**Telephone/Fax (3) 13616**]47
   144
   Cr
   7.0
   5.7
   6.0
   5.7
   5.4
   Glucose
   127
   106
   91
   87
   80
   Other labs: PT / PTT / INR:18.3/46.0/1.7, ALT / AST:158/272, Alk Phos /
   T Bili:123/28.7, Albumin:2.6 g/dL, LDH:179 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:6.9 mg/dL
   Fluid analysis / Other labs: UA- blood, + protein
   Microbiology: Wound cx pending
   Assessment and Plan
   51 yo male with Hep C and EtOH cirrhosis admitted with decompensated
   liver disease and acute blood loss anemia, now stabilized.
   1. Acute blood loss anemia- due to GI bleed most likely and stable.
   Thought to be ostomy-site related though GEJ ulcer also seen. Also d/t
   IJ line site bleeding in the setting of coagulopathy. Resuscitation
   complicated by numerous RBC Ab making matching more difficult.
   -scale back to [**Hospital1 **] hct
s, [**Hospital1 7**] PPI, vitamin K. Surgery and GI following
   -No [**Doctor First Name 213**] wanted as per disc w/ pt and brother [**Name (NI) **]
   2. Cirrhosis- EtOH and HCV related. Poss acute alc hep on top of
   underlying liver disease. Decompensation also prob related to GIB as
   above
   -cont lactulose and rifaximin; encephalopathy clearing
   -supp mgmt, trend LFTs
   3. ARF- pre-renal/ATN vs hepatorenal. Pt is making reasonable urine
   output and probably has a contraction alkalosis. No acute indications
   for HD.
   -re-check lytes after resuscitation, dose meds for CrCl<10. Renal team
   following
   -per disc w/ brother, would not want HD
   4. Leukocytosis: unclear source, inflammation nonspecifically vs pulm
   source or GI source. cont vanco for superficial purulence at prior
   paracent site. will dc flagyl and CTX
   -cont vanco; re-dose
   -recheck vanco level in the AM
   ICU Care
   Nutrition:
   Comments: npo
   Glycemic Control:
   Lines:
   Trauma line - [**2128-1-28**] 09:55 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: will discuss possible
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**Last Name (STitle) 5199**]
   note, including assessment and plan. No further apparent bleeding with
   unchanged hct
s, encephalopathy unchanged to slowly improving. Per pt
   brother, there are no plans for dialysis and they are overall pulling
   back on aggressive care given his overall poor prognosis. Appears
   appropriate for floor transfer.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2128-1-30**] 16:42 ------

2128-01-31 13:16:00 Physician Attending Progress Note
Chief Complaint: gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51M with ESLD from hepc and etoh, admitted with acute blood loss from
   ostomy site, stabilized. Also gastritis and gastric ulcers:
   24 Hour Events:
   -family meeting -> move to hospice
   -not gone to floor because no staff to pull line
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2128-1-30**] 07:30 AM
   Metronidazole - [**2128-1-30**] 08:00 AM
   Vancomycin - [**2128-1-30**] 11:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2128-1-31**] 08:58 AM
   Other medications:
   rifax, lactulose, pantopr, sucralf, ca, benadryl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2128-1-31**] 01:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.7
   HR: 85 (80 - 92) bpm
   BP: 103/48(62) {91/37(53) - 127/57(68)} mmHg
   RR: 11 (11 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,665 mL
                                                                    645 mL
   PO:
                                                                    720 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,795 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  3,247 mL
                                                                  2,185 mL
   Urine:
                                                                  1,072 mL
                                                                    785 mL
   NG:
   Stool:
                                                                  2,175 mL
                                                                  1,400 mL
   Drains:
   Balance:
                                                                   -582 mL
                                                                 -1,540 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) rrr
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear
   anteriorly
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to voice.
   Oriented to place, year, president. + asterixis
   Labs / Radiology
   9.4 g/dL
   157 K/uL
   107 mg/dL
   4.5 mg/dL
   29 mEq/L
   2.9 mEq/L
   76 mg/dL
   97 mEq/L
   141 mEq/L
   27.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2128-1-28**]  10:09 AM
                             [**2128-1-28**]  03:47 PM
                             [**2128-1-28**]  06:47 PM
                             [**2128-1-29**]  01:30 AM
                             [**2128-1-29**]  05:58 AM
                             [**2128-1-29**]  12:51 PM
                             [**2128-1-29**]  07:45 PM
                             [**2128-1-30**]  03:39 AM
                             [**2128-1-30**]  05:27 PM
                             [**2128-1-31**]  03:31 AM
   WBC
   12.3
   12.1
   14.2
   15.4
   12.6
   14.2
   11.6
   Hct
   28.1
   23.3
   23.1
   25.5
   25.5
   25.9
   26.4
   28.2
   27.6
   Plt
   [**Telephone/Fax (3) 13616**]47
   144
   184
   157
   Cr
   7.0
   5.7
   6.0
   5.7
   5.4
   4.5
   Glucose
   127
   106
   91
   87
   80
   107
   Other labs: PT / PTT / INR:18.3/46.0/1.7, ALT / AST:144/223, Alk Phos /
   T Bili:134/30.1, Albumin:2.6 g/dL, LDH:147 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   51M with ESLD from hepc and etoh, admitted with acute blood loss from
   ostomy site, stabilized. Also gastritis and gastric ulcers. Renal
   function has stabilized and mental status has improved. No more
   evidence of bleeding.
   -remove central line
   -transfer to floor today
   -cont supportive measure for liver disease
   -cont goals of care discussion
   ICU Care
   Nutrition: PO diet today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Trauma line - [**2128-1-28**] 09:55 AM
   18 Gauge - [**2128-1-30**] 01:20 PM
   20 Gauge - [**2128-1-30**] 04:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : Transfer to floor
   Total time spent: 35 minutes

2128-02-01 11:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRAUMA LINE - STOP [**2128-1-31**] 04:00 PM: No bleeding
   History obtained from Family / [**Hospital 75**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2128-1-30**] 07:30 AM
   Metronidazole - [**2128-1-30**] 08:00 AM
   Vancomycin - [**2128-1-30**] 11:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2128-2-1**] 09:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-2-1**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 96 (84 - 96) bpm
   BP: 121/48(65) {97/45(57) - 121/58(72)} mmHg
   RR: 26 (9 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,442 mL
                                                                    823 mL
   PO:
                                                                    900 mL
                                                                    700 mL
   TF:
   IVF:
                                                                    542 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  3,265 mL
                                                                  1,660 mL
   Urine:
                                                                  1,265 mL
                                                                    660 mL
   NG:
   Stool:
                                                                  2,000 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -1,823 mL
                                                                   -838 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   GEN: alert, oriented, still encephalopathic
   HEENT: clear and dry opc, dry blood clots from NG
   CV: rrr, no m/r/g
   PULM: CTA from anterior
   ABD: distended, mildly tender, not guarding, soft, +BS, stool in
   colostomy bag
   LIMBS: no edema
   SKIN: no rash, no breakdown
   NEURO: awake but confused
   Labs / Radiology
   168 K/uL
   10.3 g/dL
   105 mg/dL
   4.5 mg/dL
   28 mEq/L
   3.0 mEq/L
   70 mg/dL
   97 mEq/L
   138 mEq/L
   29.5 %
   10.4 K/uL
        [image002.jpg]
                             [**2128-1-28**]  03:47 PM
                             [**2128-1-28**]  06:47 PM
                             [**2128-1-29**]  01:30 AM
                             [**2128-1-29**]  05:58 AM
                             [**2128-1-29**]  12:51 PM
                             [**2128-1-29**]  07:45 PM
                             [**2128-1-30**]  03:39 AM
                             [**2128-1-30**]  05:27 PM
                             [**2128-1-31**]  03:31 AM
                             [**2128-2-1**]  04:25 AM
   WBC
   12.1
   14.2
   15.4
   12.6
   14.2
   11.6
   10.4
   Hct
   23.3
   23.1
   25.5
   25.5
   25.9
   26.4
   28.2
   27.6
   29.5
   Plt
   145
   177
   147
   144
   184
   157
   168
   Cr
   5.7
   6.0
   5.7
   5.4
   4.5
   4.5
   Glucose
   106
   91
   87
   80
   107
   105
   Other labs: PT / PTT / INR:18.3/46.0/1.7, ALT / AST:128/181, Alk Phos /
   T Bili:141/30.0, Albumin:2.6 g/dL, LDH:147 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   51-year-old man with hep C and alcoholic cirrhosis presented with
   hypotension, altered mental status, GI bleed.
   # GI bleed: stopped currently.   Hct stable
   - daily Hct
   - IVF as needed
   - keep active type and screen
   - PPI IV bid
   - maintain adequate IV access; currently has R IJ [**Location (un) 342**] line
 plan to
   remove today  given no signs of active bleed
   # Alcoholic cirrhosis: with elevated LFTs, bili. Discriminant function
   67. Very poor prognosis.
   - Bedside swallow eval, advance to clears, remove NG tube
   - Nutrition recs re: Hep diet
   - hepatology recs
   # Altered mental status: mild hepatic encephalopathy, improving.
   - continue lactulose, rifaximin
   # Acute kidney injury : improving, likely secondary to hypovolemia
   - IVF resuscitation as needed
   - renally dose meds, no indication for HD currently
   - renal signed off
   # Leukocytosis: improving today.  Small purulent draining from
   peritoneal tap attempt site. GPC/GNR from wound site, clearing on its
   on.
   - d/c vancomycin, consider restarting if any signs of infection
   - f/u cx
   # FEN: IVF, replete electrolytes, npo give aspiration risk
   # Prophylaxis:
   -DVT ppx with pneumoboots
   -Bowel regimen, ppi
   # Access: 2 peripherals
   # Communication: Patient
   # Emergency Contact: brother [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 13606**], alternative [**Telephone/Fax (1) 13607**] with whom patient lived and currently the next of [**Doctor First Name 372**] who is
   available. Children not reachable. Per brother, pt wished to die at
   home, and if no chance of cure and pt expected to deteriorate more he
   would like him to be discharged home with hospice.
   # Code: DNR/DNI, palliative care on board
   .
   # Disposition: called out to floor
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 LIVER FUNCTION ABNORMALITIES
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-30**] 01:20 PM
   20 Gauge - [**2128-1-30**] 04:49 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2128-02-01 11:28:00 Physician Attending Progress Note
Chief Complaint: ESLD, ARF
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51M with ESLD from hepc and etoh, txr to icu for bleeding from ostomy
   site, hypotension, arf, and hepatic encophalopathy, with improvement in
   renal function and mental status over the last several days, and stable
   hct:
   24 Hour Events:
   - trauma line removed -- no signs of bleeding
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2128-1-30**] 07:30 AM
   Metronidazole - [**2128-1-30**] 08:00 AM
   Vancomycin - [**2128-1-30**] 11:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2128-2-1**] 09:02 AM
   Other medications:
   rifax, lactulose, pantopr iv bid, sucralfate, ca acetate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2128-2-1**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 96 (84 - 96) bpm
   BP: 121/48(65) {97/45(57) - 121/58(72)} mmHg
   RR: 26 (9 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,442 mL
                                                                    822 mL
   PO:
                                                                    900 mL
                                                                    700 mL
   TF:
   IVF:
                                                                    542 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  3,265 mL
                                                                  1,660 mL
   Urine:
                                                                  1,265 mL
                                                                    660 mL
   NG:
   Stool:
                                                                  2,000 mL
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 -1,823 mL
                                                                   -838 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, asterixis
   Labs / Radiology
   10.3 g/dL
   168 K/uL
   105 mg/dL
   4.5 mg/dL
   28 mEq/L
   3.0 mEq/L
   70 mg/dL
   97 mEq/L
   138 mEq/L
   29.5 %
   10.4 K/uL
        [image002.jpg]
                             [**2128-1-28**]  03:47 PM
                             [**2128-1-28**]  06:47 PM
                             [**2128-1-29**]  01:30 AM
                             [**2128-1-29**]  05:58 AM
                             [**2128-1-29**]  12:51 PM
                             [**2128-1-29**]  07:45 PM
                             [**2128-1-30**]  03:39 AM
                             [**2128-1-30**]  05:27 PM
                             [**2128-1-31**]  03:31 AM
                             [**2128-2-1**]  04:25 AM
   WBC
   12.1
   14.2
   15.4
   12.6
   14.2
   11.6
   10.4
   Hct
   23.3
   23.1
   25.5
   25.5
   25.9
   26.4
   28.2
   27.6
   29.5
   Plt
   145
   177
   147
   144
   184
   157
   168
   Cr
   5.7
   6.0
   5.7
   5.4
   4.5
   4.5
   Glucose
   106
   91
   87
   80
   107
   105
   Other labs: PT / PTT / INR:18.3/46.0/1.7, ALT / AST:128/181, Alk Phos /
   T Bili:141/30.0, Albumin:2.6 g/dL, LDH:147 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Imaging: none
   Microbiology: none new
   Assessment and Plan
   51M with ESLD from hepc and etoh, txr to icu for bleeding from ostomy
   site, hypotension, arf, and hepatic encophalopathy, with improvement in
   renal function and mental status over the last several days, and stable
   hct. Pt waiting for floor bed.
   Will continue monitoring hct and looking for signs of bleeding.
   Dispo planning in progress, including possibility of going home with
   hospice.
   ICU Care
   Nutrition: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2128-1-30**] 01:20 PM
   20 Gauge - [**2128-1-30**] 04:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2128-02-02 07:04:00 Physician Resident Progress Note
Chief Complaint: none
   24 Hour Events:
   - awaiting floor bed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2128-1-30**] 07:30 AM
   Metronidazole - [**2128-1-30**] 08:00 AM
   Vancomycin - [**2128-1-30**] 11:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2128-2-1**] 09:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-2-2**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 86 (79 - 96) bpm
   BP: 105/56(67) {98/48(60) - 121/57(69)} mmHg
   RR: 24 (9 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,450 mL
                                                                    771 mL
   PO:
                                                                  1,200 mL
                                                                    700 mL
   TF:
   IVF:
                                                                    250 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                  2,330 mL
   Urine:
                                                                  1,220 mL
                                                                    330 mL
   NG:
   Stool:
                                                                  1,000 mL
                                                                  2,000 mL
   Drains:
   Balance:
                                                                 -1,970 mL
                                                                 -1,560 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: alert, oriented x 3
   HEENT: clear and dry OP
   CV: RR, normal S1/S2, no m/r/g
   PULM: CTAB
   ABD: distended, mildly tender, not guarding, soft, +BS, stool in
   colostomy bag
   LIMBS: no edema
   SKIN: no rash, no breakdown
   NEURO: no asterixis
   Labs / Radiology
   168 K/uL
   10.3 g/dL
   105 mg/dL
   4.5 mg/dL
   28 mEq/L
   3.0 mEq/L
   70 mg/dL
   97 mEq/L
   138 mEq/L
   29.5 %
   10.4 K/uL
        [image002.jpg]
                             [**2128-1-28**]  03:47 PM
                             [**2128-1-28**]  06:47 PM
                             [**2128-1-29**]  01:30 AM
                             [**2128-1-29**]  05:58 AM
                             [**2128-1-29**]  12:51 PM
                             [**2128-1-29**]  07:45 PM
                             [**2128-1-30**]  03:39 AM
                             [**2128-1-30**]  05:27 PM
                             [**2128-1-31**]  03:31 AM
                             [**2128-2-1**]  04:25 AM
   WBC
   12.1
   14.2
   15.4
   12.6
   14.2
   11.6
   10.4
   Hct
   23.3
   23.1
   25.5
   25.5
   25.9
   26.4
   28.2
   27.6
   29.5
   Plt
   145
   177
   147
   144
   184
   157
   168
   Cr
   5.7
   6.0
   5.7
   5.4
   4.5
   4.5
   Glucose
   106
   91
   87
   80
   107
   105
   Other labs: PT / PTT / INR:18.3/46.0/1.7, ALT / AST:128/181, Alk Phos /
   T Bili:141/30.0, Albumin:2.6 g/dL, LDH:147 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 LIVER FUNCTION ABNORMALITIES
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51-year-old man with hep C and alcoholic cirrhosis presented with
   hypotension, altered mental status, GI bleed.
   # GI bleed: stopped shortly after arriving to MICU and after
   transfusion of 4 units of pRBCs and 2 FFPs. No re-bleed. Hct stable in
   the high 20s since.
   - daily Hct
   - keep active type and screen
   - continue PO PPI
   # Alcoholic hepatitis/cirrhosis: still with elevated LFTs, bili. Very
   poor prognosis. Patient and family opted for home hospice and
   no-escalation of care.
   - continue nutritional support
   - f/u hepatology recs
   # Altered mental status: now almost resolved. Etiology is most likely
   hepatic encephalopathy.
   - continue lactulose, rifaximin
   # Acute kidney injury : Cr peaked at 6.7, now improving to 4.5, likely
   secondary to recent hypovolemia. Also ?hepatorenal syndrome. Nephrology
   - IVF resuscitation as needed
   - renally dose meds, no indication for HD currently
   # Leukocytosis: now resolved. Was on empiric broad-spectrum antibiotics
   but now off abx.
   - monitor
   # FEN: IVF, replete electrolytes, PO diet
   # Prophylaxis:
   -DVT ppx with pneumoboots
   -Bowel regimen, ppi
   # Access: 2 peripherals
   # Communication: Patient
   # Emergency Contact: brother [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 13606**], alternative [**Telephone/Fax (1) 13607**] with whom patient lived and currently the next of [**Doctor First Name 372**] who is
   available. Children not reachable. Per brother, pt wished to die at
   home, and if no chance of cure and pt expected to deteriorate more he
   would like him to be discharged home with hospice.
   # Code: DNR/DNI, palliative care on board
   .
   # Disposition: called out to floor
   ICU Care
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-30**] 01:20 PM
   20 Gauge - [**2128-1-30**] 04:49 PM

2128-02-02 10:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51M with ESLD from hepc and etoh, txr to icu for bleeding from ostomy
   site, hypotension, arf, and hepatic encophalopathy, with improvement in
   renal function and mental status over the last several days, and stable
   hct. Pt waiting for floor bed.
   24 Hour Events:
   no events
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2128-1-30**] 11:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   lactulose, rifaximin, sucralfate, pantoprazole, Ca acetate.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-2-2**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 96 (79 - 96) bpm
   BP: 119/49(66) {98/47(60) - 119/57(69)} mmHg
   RR: 27 (15 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,450 mL
                                                                  1,051 mL
   PO:
                                                                  1,200 mL
                                                                    950 mL
   TF:
   IVF:
                                                                    250 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                  2,480 mL
   Urine:
                                                                  1,220 mL
                                                                    480 mL
   NG:
   Stool:
                                                                  1,000 mL
                                                                  2,000 mL
   Drains:
   Balance:
                                                                 -1,970 mL
                                                                 -1,429 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, ostomy
   site c/d/i
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): name
   and time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   168 K/uL
   105 mg/dL
   4.5 mg/dL
   28 mEq/L
   3.0 mEq/L
   70 mg/dL
   97 mEq/L
   138 mEq/L
   29.5 %
   10.4 K/uL
        [image002.jpg]
                             [**2128-1-28**]  03:47 PM
                             [**2128-1-28**]  06:47 PM
                             [**2128-1-29**]  01:30 AM
                             [**2128-1-29**]  05:58 AM
                             [**2128-1-29**]  12:51 PM
                             [**2128-1-29**]  07:45 PM
                             [**2128-1-30**]  03:39 AM
                             [**2128-1-30**]  05:27 PM
                             [**2128-1-31**]  03:31 AM
                             [**2128-2-1**]  04:25 AM
   WBC
   12.1
   14.2
   15.4
   12.6
   14.2
   11.6
   10.4
   Hct
   23.3
   23.1
   25.5
   25.5
   25.9
   26.4
   28.2
   27.6
   29.5
   Plt
   145
   177
   147
   144
   184
   157
   168
   Cr
   5.7
   6.0
   5.7
   5.4
   4.5
   4.5
   Glucose
   106
   91
   87
   80
   107
   105
   Other labs: PT / PTT / INR:18.3/46.0/1.7, ALT / AST:128/181, Alk Phos /
   T Bili:141/30.0, Albumin:2.6 g/dL, LDH:147 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   51M with ESLD from hepc and etoh, txr to icu for bleeding from ostomy
   site, hypotension, arf, and hepatic encophalopathy, with improvement in
   renal function and mental status over the last several days, and stable
   hct. Pt waiting for floor bed.
   Will continue monitoring hct and looking for signs of bleeding.
   Dispo planning in progress, including possibility of going home with
   hospice.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2128-1-30**] 01:20 PM
   20 Gauge - [**2128-1-30**] 04:49 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize:
   51 yo man with cirrhosis, admitted with ostomy bleed.  Has improved and
   is awaiting a floor bed.  Exam significant for jaundice.  AXO times 3,
   but slightly confused
 can
t name president, or detailed questions
   about where we are.
   A/P
   Hct has been stable.
   Discharge planning in progress.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2128-2-2**] 11:37 ------